US07326715B2
C: 4-(2-Piperidin-1-yl-ethoxy)-6-(3-trifluoromethyl-phenyl)-pyrimidine-2-carbonitrile
A mixture of 2-methanesulfonyl-4-(2-piperidin-1-yl-ethoxy)-6-(3-trifluoromethyl phenyl)-pyrimidine (50 mg, 0.12 mmol) and sodium cyanide (12 mg, 0.23 mmol) in acetonitrile (1.5 ml) with a few drops of DMSO was stirred at room temperature for 18 h. The solvent was removed under reduced pressure. The residue was chromatographed over silica gel (eluent: CH2Cl2 to CH2Cl2/MeOH 95/5) to yield 31 mg of the above titled compound, yield: 70%. HPLC: 99.5%.

reactant | 2-methanesulfonyl-4-(2-piperidin-1-yl-ethoxy)-6-(3-trifluoromethyl phenyl)-pyrimidine | 0.12 mmol, 50 mg | CS(=O)(=O)C1=NC(=CC(=N1)OCCN1CCCCC1)C1=CC(=CC=C1)C(F)(F)F | C19H22F3N3O3S
reactant | sodium cyanide | 0.23 mmol, 12 mg | [C-]#N.[Na+]
solvent | acetonitrile | 1.5 ml | C(C)#N | C2H3N
catalyst | DMSO | a few drops | CS(=O)C | C2H6OS
product | 4-(2-Piperidin-1-yl-ethoxy)-6-(3-trifluoromethyl-phenyl)-pyrimidine-2-carbonitrile | 31 mg, yield: 70% | N1(CCCCC1)CCOC1=NC(=NC(=C1)C1=CC(=CC=C1)C(F)(F)F)C#N | C19H19F3N4O
